US07244725B2
Step Three: tert-butyl (1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-[(6-isopropoxy-1,1-dimethyl-3,4-dihydro-1H-isochromen-4-yl)amino]propylcarbamate.
A solution of 4-bromo-6-isopropoxy-1,1-dimethyl-3,4-dihydro-1H-isochromene (0.61 g, 2.04 mmol), cesium carbonate (1.33 g, 4.08 mmol), and tert-butyl (1S,2R)-3-amino-1-(3,5-difluorobenzyl)-2-hydroxypropylcarbamate (0.64 g, 2.04 mmol) in N,N-dimethylformamide (10 mL) was stirred at 60° C., under nitrogen, for 24 h. The reaction mixture was diluted with ethyl acetate (100 mL) and washed with 5% lithium chloride (3×40 mL), water (2×30 mL), saturated sodium chloride (30 mL), dried (sodium sulfate), and concentrated under reduced pressure. The crude product was purified by flash chromatography (silica, 95:5 methylene chloride/methanol) to afford the desired product (0.51 g, 47%) as a pale-yellow foam: ESI MS m/z 535 [C29H40F2N2O5+H]+.

reactant | 4-bromo-6-isopropoxy-1,1-dimethyl-3,4-dihydro-1H-isochromene | 2.04 mmol, 0.61 g | BrC1COC(C2=CC=C(C=C12)OC(C)C)(C)C | C14H19BrO2
reactant | cesium carbonate | 4.08 mmol, 1.33 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-butyl (1S,2R)-3-amino-1-(3,5-difluorobenzyl)-2-hydroxypropylcarbamate | 2.04 mmol, 0.64 g | NC[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(OC(C)(C)C)=O)O | C15H22F2N2O3
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl (1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-[(6-isopropoxy-1,1-dimethyl-3,4-dihydro-1H-isochromen-4-yl)amino]propylcarbamate | 0.51 g, 47% | FC=1C=C(C[C@@H]([C@@H](CNC2COC(C3=CC=C(C=C23)OC(C)C)(C)C)O)NC(OC(C)(C)C)=O)C=C(C1)F | C29H40F2N2O5
